US05183908
Preparation of 3-Acetyl-5-Ethyldihydro-2(3H)-Furanone
Sodium hydroxide (82.5 g, 205 moles) in 82.5 g H2O was added over a period of 65 minutes to a stirring solution of n-butylacetoacetate (308.6 g, 1.875 moles), 1,2-butylene oxide (108 g, 1.5 moles) and H2O (102 g) in a one liter, four-neck flask equipped with a thermometer, mechanical stirrer, addition funnel, and condenser. The reaction was stirred at about 25° C. for 10 hours. The mixture was transferred to a separatory funnel and acidified with 31% hydrochloric acid to pH 6. The organic phase and aqueous phase separated cleanly. The organic phase (377 g) was distilled as in the preceding examples to obtain three fractions with fraction 3, boiling point 110° C.-120° C., yielding 151.9 g lactone when analyzed by gas chromatography. Fractions 1 and 2 comprised principally butyl alcohol and unreacted starting materials in addition to a small amount of lactone. Total yield of lactone was 150.4 g or 64.2%. 1,2-Butylene oxide conversion was 87.0% with a selectivity to the desired furanone of 77.3%.

reactant | furanone | O1C(CC=C1)=O | C4H4O2
reactant | 1,2-Butylene oxide | C1C(CC)O1 | C4H8O
reactant | butyl alcohol | C(CCC)O | C4H10O
product | 3-Acetyl-5-Ethyldihydro-2(3H)-Furanone | C(C)(=O)C1C(OC(C1)CC)=O | C8H12O3
